US04883815
A solution of 73.3 g (0.23 mol) of 6-chloro-3,4-dihydro-4-phenyl-2(1H)-naphthalenone in 1.5 l of toluene is treated with 32.4 g (0.58 mol) of potassium hydroxide and 83.7 g (0.64 mol) of 3-chloropropylamine hydrochloride and boiled on a water separator for 42 hours. After cooling to room temperature, there are added thereto 79 ml (0.56 mol) of triethylamine and dropwise 29.7 ml (0.42 mol) of acetyl chloride in 250 ml of toluene. The mixture is stirred for 1 hour, extracted with ethyl acetate/water, dried with magnesium sulfate and the solvent is distilled in a vacuum. Chromatography over silica gel with hexane-ethyl acetate (4:1) and then with hexane-ethyl acetate (1:1) and recrystallization from ethyl acetate gives 4-acetyl-8-chloro-1,2,3,4,5,6-hexahydro-6-phenylbenzo[f]quinoline as beige crystals with melting point 167°-168°.

reactant | 6-chloro-3,4-dihydro-4-phenyl-2(1H)-naphthalenone | 0.23 mol, 73.3 g | ClC=1C=C2C(CC(CC2=CC1)=O)C1=CC=CC=C1 | C16H13ClO
reactant | potassium hydroxide | 0.58 mol, 32.4 g | [OH-].[K+]
reactant | 3-chloropropylamine hydrochloride | 0.64 mol, 83.7 g | Cl.ClCCCN
reactant | triethylamine | 0.56 mol, 79 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.42 mol, 29.7 ml | C(C)(=O)Cl | C2H3ClO
solvent | toluene | 1.5 l | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 4-acetyl-8-chloro-1,2,3,4,5,6-hexahydro-6-phenylbenzo[f]quinoline | C(C)(=O)N1CCCC=2C3=C(C(CC12)C1=CC=CC=C1)C=C(C=C3)Cl | C21H20ClNO
